### ISSUE TITLE
Chapter 8.6 Functional Induction - simp ack is unsued

### ISSUE THREAD

**Issue by rubydusa** [leanprover/theorem_proving_in_lean4#215]
```lean
def ack : Nat → Nat → Nat
  | 0,   y   => y+1
  | x+1, 0   => ack x 1
  | x+1, y+1 => ack x (ack (x+1) y)

theorem ack_gt_zero : ack n m > 0 := by
  fun_induction ack with
  | case1 y =>
    simp
  | case2 x ih =>
    exact ih
  | case3 x y ih1 ih2 =>
    simp [ack, *]
```
in case3 `ack` is unused. `ih2` matches exactly the goal and it can also be seen in the explanation:

also:
```
theorem ack_gt_zero : ack n m > 0 := by
  fun_induction ack <;> simp [*, ack]
```

unnecessary ack
